US08227622B2
2-(4-Acetamido-2-methyl-1H-indol-1-yl)acetic acid
Acetic anhydride (1.0 mL, 10.6 mmol) was added to a stirred slurry of 2-[4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid (2.0 g, 9.0 mmol) in a mixture of acetic acid (10 mL) and xylene (10 mL) at r.t. in reaction flask 1 (mildly exothermic addition) then the mixture was held with stirring for 75 mins. Meanwhile, reaction flask 2 was charged with acetic acid (5 mL), xylene (5 mL), acetic anhydride (2.6 mL, 27.5 mmol), and sodium iodide (270 mg, 1.80 mmol) and the mixture was heated to 90-100° C. with stirring. The contents of reaction flask 1 were transferred to reaction flask 2 in aliquots over a period of 1.5 h, whilst maintaining the reaction temperature at 90-100° C. Reaction flask 1 was rinsed with a mixture of xylene (2 mL) and acetic acid (2 mL) which was transferred into reaction flask 2. Subsequently, the reaction mixture was maintained at 100° C. for a further 2.5 h and was then allowed to cool to r.t. The liquid phase was decanted off from a thick residue in the reaction flask and the residue was washed with acetic acid (5 mL) followed by xylene (5 mL). The decanted liquid and washes were combined and evaporated to dryness in vacuo to leave a dark brown residue. Analysis by HPLC and LC-MS showed 29.2 area % of a peak giving m/z 247 (MH+).

reactant | Acetic anhydride | 10.6 mmol, 1.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid | 9.0 mmol, 2.0 g | ON=C1C=2C=C(N(C2CCC1)CC(=O)O)C | C11H14N2O3
reactant | acetic anhydride | 27.5 mmol, 2.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium iodide | 1.80 mmol, 270 mg | [I-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-(4-Acetamido-2-methyl-1H-indol-1-yl)acetic acid | C(C)(=O)NC1=C2C=C(N(C2=CC=C1)CC(=O)O)C | C13H14N2O3
